US07670591B2
a) tert-Butyl [5-(6-methoxy-1,3-benzoxazol-2-yl)pyridin-2-yl]carbamate
5-(6-Methoxy-1,3-benzoxazol-2-yl)pyridin-2-amine (1.95 mmol) and di-tert-butyl dicarbonate (2.33 mmol) was dissolved in THF (30 mL) cooled with an icebath. NHMDS (1M in THF, 2.33 mmol) was added slowly and the reaction was allowed to warm to r.t. The reaction mixture was stirred at r.t. for 2 h and the solvent was removed under reduced pressure. EtOAc and NaHCO3 (sat. aq.) were added and the layers separated, the organic layer was washed with brine, dried (Na2SO4), filtered and concentrated. The crude product was purified by flash chromatography (Heptane/EtOH, gradient 0:100) to give 225 mg. MS m/z 342 (M+H).

reactant | 5-(6-Methoxy-1,3-benzoxazol-2-yl)pyridin-2-amine | 1.95 mmol | COC1=CC2=C(N=C(O2)C=2C=CC(=NC2)N)C=C1 | C13H11N3O2
reactant | di-tert-butyl dicarbonate | 2.33 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-Butyl [5-(6-methoxy-1,3-benzoxazol-2-yl)pyridin-2-yl]carbamate | COC1=CC2=C(N=C(O2)C=2C=CC(=NC2)NC(OC(C)(C)C)=O)C=C1 | C18H19N3O4
